US04013665
A mixture of 4-methylanthranilic acid (25.0 g., 0.17 mole) and diketene (13.95 g., 0.17 mole) in CCl4 (250 ml.) was heated at reflux for 2.5 hours. Acetic anhydride (18.3 g., 0.18 mole) was added and the mixture was stirred under reflux for 16 hours. The mixture then was cooled and the product isolated by filtration; upon recrystallization there was obtained 2-acetonyl-7-methyl-4H-3,1-benzoxazin-4-one (17.4 g., 48 percent), mp 142°-144° C.

reactant | 4-methylanthranilic acid | 0.17 mole, 25.0 g | CC=1C=C(C(C(=O)O)=CC1)N | C8H9NO2
reactant | diketene | 0.17 mole, 13.95 g | C=C1CC(=O)O1 | C4H4O2
reactant | Acetic anhydride | 0.18 mole, 18.3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | CCl4 | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-acetonyl-7-methyl-4H-3,1-benzoxazin-4-one | 17.4 g, 48 percent | C(C(=O)C)C1=NC2=C(C(O1)=O)C=CC(=C2)C | C12H11NO3
